US08084448B2
{2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic Acid
To a solution of {2-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid methyl ester in water/MeOH/MeCN (1:1:1) is added KOH and the mixture is heated at 60° C. for 1 h. The mixture is cooled to RT and is acidified with 1N HCl. The mixture is purified by preparative HPLC to give the title compound. (M−1)−=375. HPLC retention time=0.63 min (Method A).

reactant | {2-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid methyl ester | COC(CC1=C(C=CC=C1)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)=O | C18H18N2O6S
reactant | KOH | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | water MeOH MeCN | O.CO.CC#N
product | {2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic Acid | OC=1C=C(CC2=C(C=CC=C2)CC(=O)O)C=CC1N1S(NC(C1)=O)(=O)=O | C17H16N2O6S
